US09403798B2
(R)-4-Chloro-N-[1-(4-fluorophenyl)pyrrolidin-3-yl]-1,3,5-triazin-2-amine
To a tetrahydrofuran solution (2.0 mL)-water (0.80 mL) solution of 2,4-dichloro-1,3,5-triazine (166 mg, 1.11 mmol) and sodium carbonate (141 mg, 1.33 mmol), (R)-1-(4-fluorophenyl)pyrrolidin-3-amine hydrochloride (200 mg, 1.11 mmol) synthesized in Reference Synthesis Example 30 was added at 0° C. and the resultant mixture was stirred for 3 hours. After completion of the reaction, water was added to the reaction solution and extraction from the resultant mixture with ethyl acetate was performed. The organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure to obtain the title compound as a crude product.

reactant | tetrahydrofuran | 2.0 mL | O1CCCC1 | C4H8O
reactant | 2,4-dichloro-1,3,5-triazine | 1.11 mmol, 166 mg | ClC1=NC=NC(=N1)Cl | C3HCl2N3
reactant | sodium carbonate | 1.33 mmol, 141 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | (R)-1-(4-fluorophenyl)pyrrolidin-3-amine hydrochloride | 1.11 mmol, 200 mg | Cl.FC1=CC=C(C=C1)N1C[C@@H](CC1)N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | water | 0.80 mL | O | H2O
product | (R)-4-Chloro-N-[1-(4-fluorophenyl)pyrrolidin-3-yl]-1,3,5-triazin-2-amine | ClC1=NC(=NC=N1)N[C@H]1CN(CC1)C1=CC=C(C=C1)F | C13H13ClFN5
